US08039472B2
To a solution of methyl 4-hydroxyphenylacetate (200 mg, 1.20 mmol) in DCM (5 ml) is added DIPEA (0.315 ml, 1.81 mmol), and then MEMCl (0.204 ml, 1.81 mmol), and the resulting reaction mixture is stirred for 2 hours at room temperature. An additional portion of MEMCl (0.102 ml, 1 mmol) and of DIPEA (0.158 ml, 1 mmol) are added, and the reaction mixture is stirred for a further 16 hours. An additional portion of MEMCl (0.102 ml, 1 mmol) and of DIPEA (0.158 ml, 1 mmol) are added and the reaction mixture is stirred for 3 hours. The reaction mixture is diluted with DCM and washed with 0.5 M HCl, 1 M NaOH and then 0.5 M HCl, dried (MgSO4) and concentrated in vacuo to afford [4-(2-Methoxy-ethoxymethoxy)-phenyl]-acetic acid methyl ester

reactant | methyl 4-hydroxyphenylacetate | 1.20 mmol, 200 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | DIPEA | 1.81 mmol, 0.315 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | MEMCl | 1.81 mmol, 0.204 ml | C(OCCOC)Cl | C4H9ClO2
reactant | MEMCl | 1 mmol, 0.102 ml | C(OCCOC)Cl | C4H9ClO2
reactant | DIPEA | 1 mmol, 0.158 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | MEMCl | 1 mmol, 0.102 ml | C(OCCOC)Cl | C4H9ClO2
reactant | DIPEA | 1 mmol, 0.158 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | [4-(2-Methoxy-ethoxymethoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)OCOCCOC)=O | C13H18O5
